US07553837B2
Step 2: Production of (±)-2-(5-amino-2,4,6,7-tetramethyl-2,3-dihydrobenzofuran-2-ylmethyl)-2,3,4,9-tetrahydro-1H-beta-carboline
1.49 g of (±)-2-(5-nitro-2,4,6,7-tetramethyl-2,3-dihydrobenzofuran-2-ylmethyl)-2,3,4,9-tetrahydro-1H-beta-carboline, 2.49 g of stannous chloride, 11 ml of hydrochloric acid and 25 ml of ethanol were added and, after heating at reflux for 6.5 hours, the mixture was poured into ice-water and an aqueous sodium hydroxide solution was added. The reaction solution was extracted with chloroform, washed with saturated saline and dried over anhydrous magnesium sulfate and, after the solvent was distilled off under reduced pressure, the residue was purified by silica gel column chromatography (chloroform:methanol=100:3) to obtain 1.07 g of the objective product (melting point: 150-153° C.)

reactant | (±)-2-(5-nitro-2,4,6,7-tetramethyl-2,3-dihydrobenzofuran-2-ylmethyl)-2,3,4,9-tetrahydro-1H-beta-carboline | 1.49 g | [N+](=O)([O-])C=1C(=C(C2=C(CC(O2)(C)CN2CC=3NC4=CC=CC=C4C3CC2)C1C)C)C | C24H27N3O3
reactant | hydrochloric acid | 11 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | (±)-2-(5-amino-2,4,6,7-tetramethyl-2,3-dihydrobenzofuran-2-ylmethyl)-2,3,4,9-tetrahydro-1H-beta-carboline | 1.07 g | NC=1C(=C(C2=C(CC(O2)(C)CN2CC=3NC4=CC=CC=C4C3CC2)C1C)C)C | C24H29N3O
